US07241785B2
A mixture of [3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazol-5-yl]methanol (9.50 g), active manganese dioxide (30.00 g) and tetrahydrofuran (300 ml) was stirred at room temperature for 15 hrs. Manganese dioxide was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazole-5-carbaldehyde (7.27 g, yield 77%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 103–104° C.

reactant | [3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazol-5-yl]methanol | 9.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)CO)C2=CC=CC=C2)C=C1)OC)C | C27H25N3O6
catalyst | manganese dioxide | 30.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazole-5-carbaldehyde | 7.27 g, yield 77% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
